US08647425B2
Preparation of the Title Phthalonitrile
A solution of aniline 2,5 disulphonic acid (27.5 g) in water (250 ml) was added to intermediate E (63.2 g) in acetonitrile (800 ml) and heated at 40° C. and at pH 5 to 7 overnight. The reaction solvent was removed under reduced pressure, water (50 ml) was added and then brine (60 ml) the solid which precipitated of filtered off, washed with 10% brine and dried to give product (91.1% strength, 22 g).

reactant | aniline 2,5 disulphonic acid | 27.5 g | NC=1C(=CC=C(C1)S(=O)(=O)O)S(=O)(=O)O | C6H7NO6S2
reactant | acetonitrile | 800 ml | C(C)#N | C2H3N
solvent | water | 250 ml | O | H2O
product | Phthalonitrile | C(C=1C(C#N)=CC=CC1)#N | C8H4N2
